US06211241B1
N-(6-Aminohexyl)-2-nitrobenzenesulfonamideHydrochloride
To a stirred solution of [6-(2-Nitrobenzenesulfonylamino)-hexyl]-carbamic acid t-butyl ester (2.0 g, 4.9 mmol) in 25 mL of methylene chloride at room temperature was added 3 mL of saturated HCl solution in ethyl acetate and stirred for 4 h. The precipitated solid was filtered to yield the titled compound as white solid (1.58 g, 95%); mp 161-162° C.

reactant | [6-(2-Nitrobenzenesulfonylamino)-hexyl]-carbamic acid t-butyl ester | 4.9 mmol, 2.0 g | C(C)(C)(C)OC(NCCCCCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C17H27N3O6S
reactant | HCl | 3 mL | Cl | ClH
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(6-Aminohexyl)-2-nitrobenzenesulfonamideHydrochloride | 1.58 g, 95% | Cl.NCCCCCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | InChI=1S/C12H19N3O4S.ClH/c13-9-5-1-2-6-10-14-20(18,19)12-8-4-3-7-11(12)15(16)17;/h3-4,7-8,14H,1-2,5-6,9-10,13H2;1H
